US06069156
To a solution of methyl 3-(3-methoxycarbonylpropyl)indole-6-carboxylate (656 mg) in methanol (24 ml) was added 1N aqueous sodium hydroxide (2.46 ml), and the mixture was stirred at 20° C. for 2 days. The resulting mixture was evaporated in vacuo, and the residue was acidified with 1N hydrochloric acid (2.6 ml) and extracted with ethyl acetate. The organic chase was washed with brine, dried over sodium sulfate and evaporated in vacuo. The residue was triturated with ether to give methyl 3-(3-carboxypropyl)indole-6-carboxylate (486 mg) as solid.

reactant | methyl 3-(3-methoxycarbonylpropyl)indole-6-carboxylate | 656 mg | COC(=O)CCCC1=CNC2=CC(=CC=C12)C(=O)OC | C15H17NO4
reactant | sodium hydroxide | 1N, 2.46 ml | [OH-].[Na+]
solvent | methanol | 24 ml | CO | CH4O
product | methyl 3-(3-carboxypropyl)indole-6-carboxylate | 486 mg | C(=O)(O)CCCC1=CNC2=CC(=CC=C12)C(=O)OC | C14H15NO4
